US04298529
A solution of bromine (14.72 g) in chloroform (30 ml) was added to a stirred solution of ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate (syn isomer, 20 g) in chloroform (200 ml) at ambient temperature and stirred at the same temperature for an hour. To the resultant solution was added 5% sodium thiosulfate aqueous solution (100 ml) and stirred at ambient temperature for 10 minutes. The organic layer was separated, washed with 5% sodium thiosulfate aqueous solution (100 ml), water (100 ml), a sodium bicarbonate saturated aqueous solution and sodium chloride saturated solution in turn and then dried over magnesium sulfate. The solution was evaporated in vacuo and the remaining oil (33.4 g) was distilled under reduced pressure to give an oil of ethyl 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyrate (syn isomer), bp 0.95 mm/Hg 115°-118° C. (Yield:quantitative).

reactant | bromine | 14.72 g | BrBr | Br2
reactant | ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate | 20 g | CON=C(C(=O)OCC)C1(C)OCCO1 | C9H15NO5
reactant | sodium thiosulfate | 100 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyrate | CON=C(C(=O)OCC)C1(CBr)OCCO1 | C9H14BrNO5
